US04282242
By the method of this Example and Examples 3 and 8, methyl pyrrole-3-carboxylate is reacted with m-toluenesulfenyl chloride to yield methyl 5-(3-methylphenylthio)-pyrrole-3-carboxylate.

reactant | methyl pyrrole-3-carboxylate | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | m-toluenesulfenyl chloride | C1(=CC(=CC=C1)SCl)C | C7H7ClS
product | methyl 5-(3-methylphenylthio)-pyrrole-3-carboxylate | CC=1C=C(C=CC1)SC1=CC(=CN1)C(=O)OC | C13H13NO2S
